* source EX9_5
M_M1         VD13 N00488 VS12 0 N_1u  
+ L=2u  
+ W=10u         
M_M2         VD24 N00484 VS12 0 N_1u  
+ L=2u  
+ W=10u         
M_M3         VD13 VD13 VDD VDD P_1u  
+ L=2u  
+ W=30u         
M_M4         VD24 0 VDD VDD P_1u  
+ L=2u  
+ W=30u         
V_VG1         N00488 0 DC 2.5 AC 1m 
V_VG2         N00484 0 DC 2.5  
V_VDD         VDD 0 DC 5  
I_Ibias         VS12 0 DC 40u  
